US07105531B2
3-[2-(4-Morpholinyl)ethyl]-8-oxo-5,8-dihydro-3H-imidazo[4,5-g]quinoline-7-carbonitrile
A mixture of 422 mg (0.95 mmol) of 6-amino-7-{[2-(4-morpholinyl)ethyl]amino}-4-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4-dihydro-3-quinolinecarbonitrile, 258.7 mg (3.80 mmol) of imidazole in 6 mL of 96% formic acid is refluxed for 6.5 hours. After cooling, the mixture is concentrated under reduced pressure and the residue is diluted with water. Undissolved solid is filtered off and washed with water. The combined filtrate and water washes are brought to pH 8 with 28% ammonium hydroxide aqueous solution. The precipitate is collected by filtration and washed with water. After drying in vacuo, this yields 190.0 mg of the crude product as a yellow solid. The crude product is purified by flash chromatography (elution with methylene chloride, then a gradient of 99:1 to 88:12 methylene chloride/methanol) to give 151.6 mg (49.3%) of the pure product as an off-white solid, mp>270° C.

reactant | 6-amino-7-{[2-(4-morpholinyl)ethyl]amino}-4-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4-dihydro-3-quinolinecarbonitrile | 0.95 mmol, 422 mg | NC=1C=C2C(C(=CN(C2=CC1NCCN1CCOCC1)COCC[Si](C)(C)C)C#N)=O | C22H33N5O3Si
reactant | imidazole | 3.80 mmol, 258.7 mg | N1C=NC=C1 | C3H4N2
solvent | formic acid | 6 mL | C(=O)O | CH2O2
product | 3-[2-(4-Morpholinyl)ethyl]-8-oxo-5,8-dihydro-3H-imidazo[4,5-g]quinoline-7-carbonitrile | 151.6 mg, 49.3% | N1(CCOCC1)CCN1C=NC2=CC=3C(C(=CNC3C=C21)C#N)=O | C17H17N5O2
